US06869949B2
A. 7-Acetyl-2,3-dimethyl-8-pivaloylaminoimidazo[1,2-a]pyridine
A vigorously stirred solution of 65.4 g of 2,3-dimethyl-8-pivaloylaminoimidazo[1,2-a]pyridine in 1.4 l of diethyl ether is treated dropwise at −78° C. under argon protective gas with 500 ml of a commercially available, 1.5 molar solution of t-butyllithium in n-pentane such that the temperature does not rise above −70° C. The mixture is then cooled to −90° C. in the course of 15 min and 54 ml of acetyl chloride are added dropwise to the dark-red suspension. The mixture is then allowed to warm to −40° C. (30 min), treated with 60 ml of methanol, the contents of the flask are poured onto 1 l of ice water and the aqueous phase is extracted three times with 150 ml of methylene chloride each time. The combined organic phases are washed three times with 100 ml of water each time, dried over sodium sulfate and the solvent is stripped off in vacuo. The residue is purified on silica gel (eluent: ethyl acetate/petroleum ether=3/7). 23.2 g of the title compound are obtained.

reactant | 2,3-dimethyl-8-pivaloylaminoimidazo[1,2-a]pyridine | 65.4 g | CC=1N=C2N(C=CC=C2NC(C(C)(C)C)=O)C1C | C14H19N3O
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | acetyl chloride | 54 ml | C(C)(=O)Cl | C2H3ClO
reactant | methanol | 60 ml | CO | CH4O
solvent | diethyl ether | 1.4 l | C(C)OCC | C4H10O
solvent | n-pentane | CCCCC | C5H12
product | 7-Acetyl-2,3-dimethyl-8-pivaloylaminoimidazo[1,2-a]pyridine | 23.2 g | C(C)(=O)C1=C(C=2N(C=C1)C(=C(N2)C)C)NC(C(C)(C)C)=O | C16H21N3O2
